US06162824
Step 2: 1-(9-Phenyl-9-fluorenyl)-1-vinylcyclopropane
1-Hydroxy-1-vinylcyclopropane is added to a suspension of 9-phenyl-9-fluorenol (1eq) and AW-300 molecular sieves in anhydrous toluene under an argon atmosphere. p-Toluenesulfonic acid (catalytic amount) is added in one portion. The resulting suspension is heated at 90° C. until the disappearance of starting material is observed by thin layer chromatography. The mixture is filtered to remove the sieves. The resulting filtrate is concentrated in vacuo and the concentrate is purified by flash chromatography on silica gel using hexanes-ethyl acetate as eluent.

reactant | 1-Hydroxy-1-vinylcyclopropane | OC1(CC1)C=C | C5H8O
reactant | 9-phenyl-9-fluorenol | 1eq | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C19H14O
reactant | p-Toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(9-Phenyl-9-fluorenyl)-1-vinylcyclopropane | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1(CC1)C=C | C24H20
